US08791281B2
Under the reaction conditions disclosed in the present invention, the oxidation yield of lignoceric alcohol to lignoceric acid is surprisingly high in comparison with the oxidation yields of lower alcohols known in the state of art, as shown in Example 2. Hence, the oxidation of eicosanol with hydrogen peroxide in the presence of tricapryl methyl ammonium peroxotungstophosphate catalyst immobilized on a molecular sieve of titanium zeolite (Ti-MCM-41) had a maximum yield of 53% and a conversion of 70% (Qiubin Kan et al. “Catalytic oxidation a-eicosanol into eicosanoic acid in the presence of Ti-MCM-41 or active component supported catalyst” Microporous and Mesoporous Materials 44-45: 609-617, 2001), or a maximum yield of 50.8% and a conversion of 80.2% (Bi Ying-li et al. “Oxidation of long chain primary alcohols to acids over the quaternary ammonium peroxotungstophosphate catalyst system” React. Kinet. Catal. Lett. 72(1): 73-82, 2001), whereas the maximum yield for the oxidation of lignoceric alcohol to lignoceric acid in the present invention was 78.1% and the conversion was 93.4%, indicating that in addition to a higher yield the catalytic system of the present invention also exhibits a surprisingly high selectivity toward lignoceric alcohol. The reaction course can be monitored by measuring the decrease of lignoceric alcohol concentration in the reacted mixture or the appearance and concentration increase of lignoceric acid in the reacting mixture, or both. The measurement of both lignoceric alcohol concentration decrease and lignoceric acid appearance and concentration increase in the reacted mixture are performed by gas chromatography as described in Example 2.

reactant | eicosanol | C(CCCCCCCCCCCCCCCCCCC)O | C20H42O
reactant | hydrogen peroxide | OO | H2O2
reactant | eicosanoic acid | C(CCCCCCCCCCCCCCCCCCC)(=O)O | C20H40O2
reactant | Kinet | COC1CN(CC[C@@H]1NC(=O)C2=CC(=C(C=C2OC)N)Cl)CCCOC3=CC=C(C=C3)F.O
product | lignoceric acid | C(CCCCCCCCCCCCCCCCCCCCCCC)(=O)O | C24H48O2
